data/polar.json
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:3]([CH:13]1[N+:20](=[CH:9][CH:37]=[CH:14][c:31]2[cH:10][cH:23][cH:8][cH:24][cH:11]2)[CH:17]([CH2:41][c:35]2[cH:44][cH:15][cH:26][cH:16][cH:45]2)[C:28](=[O:12])[N:36]1[CH3:27])([CH3:32])([CH3:33])[CH3:34].[cH:1]1[cH:21][cH:29][c:19]([B-:2]2([CH2:25][CH:18]=[CH2:40])[O:42][C:38]([CH3:4])([CH3:5])[C:39]([CH3:6])([CH3:7])[O:43]2)[cH:30][cH:22]1>>[cH:1]1[cH:21][cH:29][c:19]([B-:2]2([CH2:25][CH+:18][CH2:40][CH:14]([c:31]3[cH:10][cH:23][cH:8][cH:24][cH:11]3)[CH:37]=[CH:9][N:20]3[CH:13]([C:3]([CH3:32])([CH3:33])[CH3:34])[N:36]([CH3:27])[C:28](=[O:12])[CH:17]3[CH2:41][c:35]3[cH:44][cH:15][cH:26][cH:16][cH:45]3)[O:42][C:38]([CH3:4])([CH3:5])[C:39]([CH3:6])([CH3:7])[O:43]2)[cH:30][cH:22]1", "epd": [["Pi-/Sigma+", [40, 18], [40, 14]], ["Pi-/Pi+", [14, 37], [37, 9]], ["Pi-/LP+", [9, 20], [20]]]}
{"reaction_name": "Ramberg–Bäcklund fragmentation", "rsmi": "[O-:8][H:12].[O:1]=[S:11](=[O:2])([C:3]([H:4])([H:5])[H:6])[CH:7]([Cl:9])[CH3:10]>>[C:3]([H:5])([H:6])=[CH:7][CH3:10].[Cl-:9].[O:1]=[S:11]=[O:2].[O:8]([H:4])[H:12]", "epd": [["LP-/Sigma+", [8], [4, 8]], ["Sigma-/LP+", [3, 4], [3]], ["LP-/Sigma+", [3], [3, 7]], ["Sigma-/LP+", [7, 9], [9]], ["Sigma-/Pi+", [3, 11], [3, 7]], ["Sigma-/LP+", [7, 11], [11]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:1]=[S:5](=[O:2])([C:7]([F:26])([F:27])[F:28])[c:23]1[cH:19][c:6]2[n+:12]([O-:4])[o:25][n:15][c:29]2[c:22]([N+:17]([O-:14])=[O:20])[cH:24]1.[c:3]1([CH:16]=[N+:13]=[N-:21])[cH:10][cH:8][cH:18][cH:9][cH:11]1>>[O:1]=[S:5](=[O:2])([C:7]([F:26])([F:27])[F:28])[C:23]1=[CH:24][C:22](=[N+:17]([O-:14])[O-:20])[c:29]2[c:6]([n+:12]([O-:4])[o:25][n:15]2)[CH:19]1[CH:16]([c:3]1[cH:10][cH:8][cH:18][cH:9][cH:11]1)[N+:13]#[N:21]", "epd": [["LP-/Pi+", [21], [13, 21]], ["Pi-/Sigma+", [16, 13], [16, 19]], ["Pi-/Pi+", [19, 23], [23, 24]], ["Pi-/Pi+", [24, 22], [22, 17]], ["Pi-/LP+", [17, 20], [20]]]}
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:1](=[O:14])([O:26][CH2:3][c:12]1[cH:18][cH:5][cH:9][cH:8][cH:21]1)[N:30]=[N:29][C:2](=[O:15])[O:27][CH2:4][c:13]1[cH:19][cH:6][cH:10][cH:7][cH:20]1.[O-:11][c:31]1[cH:23][c:22](=[O:24])[n:32]([CH3:17])[c:28](=[O:16])[n:33]1[CH3:25]>>[C:1]([O-:14])([O:26][CH2:3][c:12]1[cH:18][cH:5][cH:9][cH:8][cH:21]1)=[N:30][N:29]([C:2](=[O:15])[O:27][CH2:4][c:13]1[cH:19][cH:6][cH:10][cH:7][cH:20]1)[CH:23]1[C:22](=[O:24])[N:32]([CH3:17])[C:28](=[O:16])[N:33]([CH3:25])[C:31]1=[O:11]", "epd": [["LP-/Pi+", [11], [31, 11]], ["Pi-/Sigma+", [23, 31], [23, 29]], ["Pi-/Pi+", [29, 30], [30, 1]], ["Pi-/LP+", [1, 14], [14]]]}
{"reaction_name": "Conjugate addition to a coumarin / α-pyrone system", "rsmi": "[CH2:1]1[CH2:22][N+:35]2([CH2:33][c:10]3[cH:6][c:30]4[cH:5][cH:4][cH:32][cH:16][c:25]4[o:20][c:9]3=[O:17])[CH2:23][CH2:2][N:34]1[CH2:3][CH2:24]2.[c:7]1([S:21](=[O:28])(=[O:29])[CH-:36][c:13]2[cH:11][cH:26][cH:31][cH:27][cH:12]2)[cH:14][cH:18][cH:8][cH:19][cH:15]1>>[CH2:1]1[CH2:22][N+:35]2([CH2:33][C:10]3=[C:9]([O-:17])[O:20][c:25]4[cH:16][cH:32][cH:4][cH:5][c:30]4[CH:6]3[CH:36]([c:13]3[cH:11][cH:26][cH:31][cH:27][cH:12]3)[S:21]([c:7]3[cH:14][cH:18][cH:8][cH:19][cH:15]3)(=[O:28])=[O:29])[CH2:23][CH2:2][N:34]1[CH2:3][CH2:24]2", "epd": [["LP-/Sigma+", [36], [36, 6]], ["Pi-/Pi+", [6, 10], [10, 9]], ["Pi-/LP+", [9, 17], [17]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH:2]1([C:6](=[O:23])[O:30][CH3:8])[CH2:10][CH2:26][CH2:24][N:28]1[C:25]1=[CH:11][CH2:5][CH2:27][CH2:17][CH2:7]1.[O:1]([S:9][C:22]([F:14])([F:15])[F:16])[C:12]([CH3:20])([CH3:21])[c:29]1[cH:3][cH:18][cH:13][cH:19][cH:4]1>>[CH:2]1([C:6](=[O:23])[O:30][CH3:8])[CH2:10][CH2:26][CH2:24][N+:28]1=[C:25]1[CH2:7][CH2:17][CH2:27][CH2:5][CH:11]1[S:9][C:22]([F:14])([F:15])[F:16].[O-:1][C:12]([CH3:20])([CH3:21])[c:29]1[cH:3][cH:18][cH:13][cH:19][cH:4]1", "epd": [["LP-/Pi+", [28], [25, 28]], ["Pi-/Sigma+", [11, 25], [11, 9]], ["Sigma-/LP+", [9, 1], [1]]]}
{"reaction_name": "Corey–Fuchs dibromination step", "rsmi": "[O:16]=[CH:22][CH3:17].[c:1]1([P:25]([c:2]2[cH:12][cH:6][cH:19][cH:7][cH:13]2)([c:3]2[cH:14][cH:8][cH:20][cH:9][cH:15]2)=[C:21]([Br:23])[Br:24])[cH:10][cH:4][cH:18][cH:5][cH:11]1>>[CH3:17][CH:22]=[C:21]([Br:23])[Br:24].[c:1]1([P:25]([c:2]2[cH:12][cH:6][cH:19][cH:7][cH:13]2)([c:3]2[cH:14][cH:8][cH:20][cH:9][cH:15]2)=[O:16])[cH:10][cH:4][cH:18][cH:5][cH:11]1", "epd": [["Pi-/Sigma+", [16, 22], [16, 25]], ["Pi-/Sigma+", [21, 25], [21, 22]], ["Sigma-/Pi+", [16, 22], [21, 22]], ["Sigma-/Pi+", [21, 25], [16, 25]]]}
{"reaction_name": "Sulfone-stabilized elimination", "rsmi": "[OH:1][CH:6]([CH:4]([S:7](=[O:2])(=[O:3])[CH3:5])[H:9])[CH3:8]>>[O:2]=[S:7](=[O:3])([CH:4]=[CH:6][CH3:8])[CH3:5].[OH:1][H:9]", "epd": [["LP-/Sigma+", [1], [1, 9]], ["Sigma-/LP+", [4, 9], [4]], ["LP-/Pi+", [4], [4, 6]], ["Sigma-/LP+", [1, 6], [1]]]}
